US05405851
3-Amino-9-bromo-5,6-dihydrobenzo[f]quinazolin-1(2H)-one (5.83 g, 20 mmoles) and pivalic anhydride (200 ml) were stirred and heated to 185° C. under a nitrogen atmosphere for 1 hour. After cooling, excess pivalic anhydride was evaporated under reduced pressure. The residue was triturated with ether:hexanes (1:1) (200 ml), filtered and dried to give N-(9-bromo-1,2,5,6-tetrahydro-1-oxo-benzo[f]quinazolin-3-yl)pivalamide as an off-white solid. (6.1 g, 81%). 1H NMR(DMSO-d6, 300 MHz) δ: 1.23(s, 9H, t-butyl); 2.73-2.85(m, 4H, CH2CH2); 7.18(d, J=8.1 Hz, 1H, Ar); 7.34(dd, J=7.8, 2.1 Hz, 1H, Ar); 8.70(d, J=2.0 Hz, 1H, Ar); 11.35(br s, 1H, NH).

reactant | 3-Amino-9-bromo-5,6-dihydrobenzo[f]quinazolin-1(2H)-one | 20 mmoles, 5.83 g | NC1=NC=2CCC3=C(C2C(N1)=O)C=C(C=C3)Br | C12H10BrN3O
reactant | pivalic anhydride | 200 ml | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
product | N-(9-bromo-1,2,5,6-tetrahydro-1-oxo-benzo[f]quinazolin-3-yl)pivalamide | BrC=1C=CC2=C(C=3C(NC(=NC3CC2)NC(C(C)(C)C)=O)=O)C1 | C17H18BrN3O2
